US08604050B2
10.1 5-Fluoro-1-[(3-fluorophenyl)methyl]-1H-indole-2-carboxamide
To a suspension, stirred at 20° C., of 2 g (6.96 mmol) of 5-fluoro-1-[(3-fluorophenyl)-methyl]-1H-indole-2-carboxylic acid, prepared in step 1.1, in 80 mL of dry toluene are added 5.08 mL (69.62 mmol) of thionyl chloride. The reaction mixture is stirred for 2 hours at reflux and is then concentrated under reduced pressure. The resulting product is taken up in 10 mL of dichloromethane, and this solution is poured dropwise into a solution of 9.12 mL (69.62 mmol) of 30% aqueous ammonia. The reaction mixture is stirred for 14 hours at 20° C. After this time, a solid is collected by filtration, and is triturated in 50 mL of diisopropyl ether. After filtering off and drying under reduced pressure, 0.58 g of the expected product is collected.

reactant | 5-fluoro-1-[(3-fluorophenyl)-methyl]-1H-indole-2-carboxylic acid | 6.96 mmol, 2 g | FC=1C=C2C=C(N(C2=CC1)CC1=CC(=CC=C1)F)C(=O)O | C16H11F2NO2
reactant | thionyl chloride | 69.62 mmol, 5.08 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia | 69.62 mmol, 9.12 mL | N | H3N
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Fluoro-1-[(3-fluorophenyl)methyl]-1H-indole-2-carboxamide | FC=1C=C2C=C(N(C2=CC1)CC1=CC(=CC=C1)F)C(=O)N | C16H12F2N2O
